US07651630B2
103 g of methyl 4-methoxymethylidene-cyclohexane-carboxylate was dissolved in 350 mL of THF, to which 100 mL of 10% hydrochloric acid was added dropwise at 11 to 13° C. for 10 minutes. The solution was further stirred at room temperature for 3 hours, and then 80 mL of hexane was added. The water phase was extracted with ethyl acetate, and then the organic phases were combined and washed with water and saturated saline in this order. The resultant product was dried over anhydrous magnesium sulfate, and then concentrated, to obtain 92.4 g of methyl 4-formylcyclohexane-carboxylate in the form of an oil-like product. The obtained product was analyzed by gas chromatography, and was found to be a mixture of cis-form: trans-form at a ratio of 64:36.

reactant | methyl 4-methoxymethylidene-cyclohexane-carboxylate | 103 g | COC=C1CCC(CC1)C(=O)OC | C10H16O3
reactant | hexane | 80 mL | CCCCCC | C6H14
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 100 mL | Cl | ClH
product | methyl 4-formylcyclohexane-carboxylate | 92.4 g | C(=O)C1CCC(CC1)C(=O)OC | C9H14O3
